US08703808B2
2) Preparation of (Z)-3-(6-fluoropyridin-3-yl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile
To a solution of tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate (719 mg, 2.51 mmol, 1.0 eq.) in anhydrous THF (30 mL) was added, under an argon atmosphere, NaH (106 mg, 80%, 3.52 mmol, 1.4 eq.). The mixture was stirred at room temperature for 2 hours, and then cooled to 0° C. before the addition of 6-fluoro-pyridine-3-carbaldehyde (440 mg, 3.52 mmol, 1.4 eq.) in anhydrous THF (6 mL). The reaction apparatus was protected from light and the mixture was stirred at 0° C. for 4 hours, and then quenched with a saturated aqueous ammonium chloride solution. The mixture was stirred again at room temperature for 4 hours and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 98:2) to afford, after trituration with diethyl ether, the compound (28) as a yellow powder (45 mg, 6%). IR νmax (cm-1): 2215 (νCN); 1H NMR (DMSO, 300 MHz): δ (ppm): 3.84 (3H, s, 5′-methoxy), 6.91 (1H, dd, J6′-7′=8.9 Hz, J6′-4′=2.1 Hz, H6′), 7.36 (1H, dd, J5″-4″=8.5 Hz, J5″-F=2.1 Hz, H5″), 7.41 (1H, d, J7′-6′=8.9 Hz, H7′), 7.49 (1H, d, J4′-6′=2.4 Hz, H4′), 7.76 (1H, s, H3), 7.78 (1H, s, H2′), 8.52 (1H, td, J5″-4″=J5″-F=10.1 Hz, J4″-2″=1.8 Hz, H4″), 8.67 (1H, d, J2″-4″=1.8 Hz, H2″), 11.66 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz): δ (ppm): 55.6 (5′-methoxy), 102.0 (C4′), 108.2 (C2), 109.7 (1C, d, 2JC—F=37 Hz, C5″), 110.0 (C3′), 112.4 (C6′), 113.2 (C7′), 118.0 (C1), 124.0 (C3a′), 127.7 (C2′), 129.5 (1C, d, 4JC—F=4 Hz, C3″), 130.7 (C3), 132.3 (C7a′), 140.7 (1C, d, 3JC—F=8 Hz, C4″), 148.2 (1C, d, 3JC—F=15 Hz, C2″), 154.6 (C5′), 162.6 (1C, d, 1JC—F=237 Hz, C6″); ESI: 294.1 ([M+H]+), 316.1 ([M+Na]+), 348.1 ([M+Na+MeOH]+); HRESI-MS: m/z 294.1052 (calcd for C17H13N3OF, 294.1043).

reactant | tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate | 2.51 mmol, 719 mg, 1.0 eq. | C(#N)CC1=CN(C2=CC=C(C=C12)OC)C(=O)OC(C)(C)C | C16H18N2O3
reactant | NaH | 3.52 mmol, 106 mg, 1.4 eq. | [H-].[Na+]
reactant | 6-fluoro-pyridine-3-carbaldehyde | 3.52 mmol, 440 mg, 1.4 eq. | FC1=CC=C(C=N1)C=O | C6H4FNO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (Z)-3-(6-fluoropyridin-3-yl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile | FC1=CC=C(C=N1)\C=C(/C#N)\C1=CNC2=CC=C(C=C12)OC | C17H12FN3O
